US07767675B2
N,N-Dimethyl-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzenesulfonamide
Sodium carbonate (79.5 mg) in water (0.5 mL) was added to a mixture of N,N-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide (93.4 mg, 0.3 mmol), 5-bromopyrimidin-2-amine (43.5 mg, 0.25 mmol) and tetrakis(triphenylphosphine)palladium (8.7 mg, 0.0075 mmol) in ethanol (1.0 mL) and toluene (1.0 mL). The resulting mixture was heated at 120° C. for 2 h. The mixture was diluted with water, filtered, and washed with water. The solid was collected and dried. Chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde (45.0 mg, 0.183 mmol) in isopropanol (1.0 mL) was added to the above solid. The mixture was heated at 90° C. overnight. After cooling to RT, the mixture was diluted with methanol, and purified by RP-HPLC (pH 10) to give the desired product. LCMS: (M+H)=470.1.

reactant | Sodium carbonate | 79.5 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide | 0.3 mmol, 93.4 mg | CN(S(=O)(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C14H22BNO4S
reactant | 5-bromopyrimidin-2-amine | 0.25 mmol, 43.5 mg | BrC=1C=NC(=NC1)N | C4H4BrN3
reactant | Chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde | 0.183 mmol, 45.0 mg | ClC(C=O)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C14H12ClNO
solvent | water | 0.5 mL | O | H2O
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | isopropanol | 1.0 mL | C(C)(C)O | C3H8O
solvent | methanol | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium | 0.0075 mmol, 8.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N,N-Dimethyl-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzenesulfonamide | CN(S(=O)(=O)C1=CC=C(C=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)C | C26H23N5O2S
